US04458079
Preparation of 2-(4-chlorophenyl)ethanethiol
A mixture of 4-chlorophenethyl alcohol (50.0 g, 0.319 mole), thiourea (24.3 g, 0.319 mole) and 48% hydrobromic acid (161 g, 0.958 mole) was stirred under reflux for 9 hours. The mixture was cooled and a solution of sodium hydroxide (38.3 g, 0.958 mole) in water (380 ml) added, and the resulting mixture was stirred at reflux for 2 hours under a gentle stream of nitrogen. The mixture was cooled and the oily organic layer separated. The aqueous layer was acidified with hydrochloric acid and extracted with 3×50 ml portions of diethyl ether. The ethereal extracts were combined with the oily product and the combination washed with water followed by brine. The ethereal solution was dried (Na2SO4), concentrated and distilled to provide 34.5 g of the title compound, bp 72°-77° (0.03 mm).

reactant | 4-chlorophenethyl alcohol | 0.319 mole, 50.0 g | ClC1=CC=C(CCO)C=C1 | C8H9ClO
reactant | thiourea | 0.319 mole, 24.3 g | NC(=S)N | CH4N2S
reactant | hydrobromic acid | 0.958 mole, 161 g | Br | BrH
reactant | sodium hydroxide | 0.958 mole, 38.3 g | [OH-].[Na+]
solvent | water | 380 ml | O | H2O
product | 2-(4-chlorophenyl)ethanethiol | 34.5 g | ClC1=CC=C(C=C1)CCS | C8H9ClS
